US06897224B2
8.05 g of 7-nitro-benzo[1,3]dioxole-4-carboxylic acid is reacted with hydrogen in 650 ml of ethanol with 800 mg of palladium/carbon catalyst under normal pressure at room temperature. It is filtered through diatomaceous earth and concentrated by evaporation in a vacuum. 6.82 g of 7-amino-benzo[1,3]dioxole-4-carboxylic acid is obtained as a brown solid, flash point 196-197° C.

reactant | 7-nitro-benzo[1,3]dioxole-4-carboxylic acid | 8.05 g | [N+](=O)([O-])C1=CC=C(C2=C1OCO2)C(=O)O | C8H5NO6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 650 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 800 mg | [Pd] | Pd
product | 7-amino-benzo[1,3]dioxole-4-carboxylic acid | 6.82 g | NC1=CC=C(C2=C1OCO2)C(=O)O | C8H7NO4
